US05294612
To a solution of 90% nitric acid (30 ml) at -12°-0° C. was added in small portions 1-phenylmethyl-3-methyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one (2.99 g, 9.4 mmol). The reaction mixture was stirred at 0° C. for 2.5 hours and then poured slowly into ice-water. The solution was neutralized with concentrated ammonium hydroxide to afford a yellow solid which was collected by filtration and washed with water, ethanol and finally ether. The product was recrystallized from ethyl acetate/ethanol (3×) to afford 3.2 g (91%) of 1-(4-nitrophenylmethyl)-3-methyl-6-(4-pyridyl)pyrazolo(3,4-d)pyrimidin-4-one as a white powder which is contaminated with a small amount of the meta isomer (ratio para/meta is 93/7). The mixture had a melting point of 275°-281° C. when dried at 125° C. for 24 hours in high vacuum.

reactant | 1-phenylmethyl-3-methyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one | 9.4 mmol, 2.99 g | C1(=CC=CC=C1)CN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C18H15N5O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | 1-(4-nitrophenylmethyl)-3-methyl-6-(4-pyridyl)pyrazolo(3,4-d)pyrimidin-4-one | 3.2 g, 91% | [N+](=O)([O-])C1=CC=C(C=C1)CN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C18H14N6O3
